US03970689
A mixture of 12.3 g of acetic anhydride and 6.2 g of formic acid was heated at 40°C for 1 hour. After cooling to 20°C 1 g of pyridine was added and subsequently, with stirring, 15 g of 4-mercapto-4-methylpentan-2-ol in the course of 10 minutes. The temperature of the reaction mixture slowly rose to 28°C. After standing overnight it was dissolved in diethylether, washed five times with 3% aqueous NaHCO3 solution and then with aqueous NaCl solution to neutral. The ethereal solution was dried over Na2SO4 and concentrated. Distillation of the residue yielded 10.5 g (58%) of 4-mercapto-4-methylpent-2-yl formate, b.p. 30°-32°C/1 mm, nD20 1.4564.

reactant | acetic anhydride | 12.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 6.2 g | C(=O)O | CH2O2
reactant | pyridine | 1 g | N1=CC=CC=C1 | C5H5N
reactant | 4-mercapto-4-methylpentan-2-ol | 15 g | SC(CC(C)O)(C)C | C6H14OS
solvent | diethylether | C(C)OCC | C4H10O
product | 4-mercapto-4-methylpent-2-yl formate | 10.5 g, 58% | C(=O)OC(C)CC(C)(C)S | C7H14O2S
